US08445501B2
cis-(4-{[4-(2-Cyclopropylmethoxy-5-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carbonyl]-amino}-cyclohexyl)-carbamic acid ethyl ester
Starting from cis-4-(2-cyclopropylmethoxy-5-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-amino-cyclohexyl)-amide (example A154) and ethyl chloroformate the title compound is obtained as colorless solid.

reactant | cis-4-(2-cyclopropylmethoxy-5-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-amino-cyclohexyl)-amide | N[C@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC(=C2)OC)OCC2CC2 | C24H29N5O3
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | cis-(4-{[4-(2-Cyclopropylmethoxy-5-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carbonyl]-amino}-cyclohexyl)-carbamic acid ethyl ester | C(C)OC(N[C@@H]1CC[C@@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC(=C2)OC)OCC2CC2)=O | C27H33N5O5
